US07183274B2
N-[2-(2-hydroxyethyl)phenyl]formamide
12.6 ml of formic acid were added dropwise at 0° C. to 15 ml of acetic anhydride, and the mixture was then stirred for 2 hours at 60° C. After cooling to 20° C., the mixture was diluted with 140 ml of tetrahydrofuran, cooled to −4° C., and at this temperature a solution of 18.4 g of 2-(2-aminophenyl)ethanol in 185 ml of tetrahydrofuran was added dropwise. After stirring for 3 hours at −6° C. the mixture was neutralised with aqueous potassium hydrogen carbonate solution (25% KHCO3) and extracted four times with 300 ml of ethyl acetate each time. The combined extracts were dried over sodium sulfate and concentrated by evaporation in vacuo. 18.4 g (94% of theory) of the title compound were thereby obtained in the form of yellowish crystals that melted at 49–54° C.

reactant | formic acid | 12.6 ml | C(=O)O | CH2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(2-aminophenyl)ethanol | 18.4 g | NC1=C(C=CC=C1)CCO | C8H11NO
reactant | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 185 ml | O1CCCC1 | C4H8O
product | N-[2-(2-hydroxyethyl)phenyl]formamide | OCCC1=C(C=CC=C1)NC=O | C9H11NO2
